US04978476
D. 2-(4-Methylphenyl)-5-nitrobenzthiazole
To a stirred solution of 153.2 g (0.9 mole) of 2-amino-4-nitrothiophenol in pyridine is added 108.1 g (0.9 mole) of 4-tolualdehyde, and the reaction is heated at 100° C. until the starting materials are consumed. After cooling to room temperature, the mixture is acidified with cold 2N HCl, and the intermediate benzthiazoline is collected by filtration. The benzthiazoline is dissolved in methanol, then ferric chloride is added, and the solution is warmed at 40° C. for about 2 hours until oxidation to the benzthiazole is complete. The product is recrystallized from ethanol.

reactant | 2-amino-4-nitrothiophenol | 0.9 mole, 153.2 g | NC1=C(C=CC(=C1)[N+](=O)[O-])S | C6H6N2O2S
reactant | 4-tolualdehyde | 0.9 mole, 108.1 g | C1(=CC=C(C=C1)C=O)C | C8H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(4-Methylphenyl)-5-nitrobenzthiazole | CC1=CC=C(C=C1)C=1SC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C14H10N2O2S
